US06869954B2
1) Preparation of 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one
Following the procedure of Example 1(6), 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and benzyl chloride were reacted to yield the title compound as yellow needles (yield: 71.0%).

reactant | 6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | FC1=C(C=C(C=C1)C=1C=C(C(NN1)=O)C(=O)OC)C | C13H11FN2O3
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 2-benzyl-6-(4-fluoro-3-methylphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | yield: 71.0% | C(C1=CC=CC=C1)N1N=C(C=C(C1=O)C(=O)OC)C1=CC(=C(C=C1)F)C | C20H17FN2O3
